US07560567B2
Preparation of tert-butyl 2-(acetylamino)-2-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]ethylcarbamate
5.00 g of N-[[3-chloro-5-(trifluoromethyl)-2-pyridinyl](cyano)methyl]acetamide (0.018 mol), 7.86 g (0.036 mol) of diterbutyl carbonate, 4.28 g (0.018 mol) of nickel chloride (II)—hexahydrate are stirred in 25 mL of methanol at room temperature. 3.40 g (0.09 mol) of sodium borohydride are added portionwise. The reaction mixture is stirred overnight. 200 mL of ethyl acetate are added, followed by 50 mL of water. After separation, the aqueous phase id extracted twice 50 mL of ethyl acetate.

reactant | N-[[3-chloro-5-(trifluoromethyl)-2-pyridinyl](cyano)methyl]acetamide | 0.018 mol, 5.00 g | ClC=1C(=NC=C(C1)C(F)(F)F)C(NC(C)=O)C#N | C10H7ClF3N3O
reactant | diterbutyl carbonate | 0.036 mol, 7.86 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | sodium borohydride | 0.09 mol, 3.40 g | [BH4-].[Na+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 25 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | tert-butyl 2-(acetylamino)-2-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]ethylcarbamate | C(C)(=O)NC(CNC(OC(C)(C)C)=O)C1=NC=C(C=C1Cl)C(F)(F)F | C15H19ClF3N3O3
